US07186724B2
29d: Preparation of 6-methyl-3-piperidin-4-yl-thieno[2,3-d]isoxazole hydrochloride:
Stir a solution of 4-(6-methyl-thieno[2,3-d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (8.84 mmol, 2.85 g, 1.00 equivalents) in hydrochloric acid (48.75 mL, 1 M solution in diethyl ether) and methanol (2.00 mL) at room temperature for 3.5 hours. Filter the suspension, collect the white solid and dry to yield the desired product (659 mg). Allow the mother liquor to age overnight, filter, collect the white solid and dry to yield additional desired product (1.252 g). LC/MS (ESI), m/e 223 (MH+), retention time 1.14 minutes. Condition II.

reactant | 4-(6-methyl-thieno[2,3-d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 8.84 mmol, 2.85 g, 1.00 equivalents | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC2=C1SC=C2C | C16H22N2O3S
reactant | hydrochloric acid | 1 M, 48.75 mL | Cl | ClH
solvent | methanol | 2.00 mL | CO | CH4O
product | 6-methyl-3-piperidin-4-yl-thieno[2,3-d]isoxazole hydrochloride | 659 mg | Cl.CC1=CSC=2C(=NOC21)C2CCNCC2 | InChI=1S/C11H14N2OS.ClH/c1-7-6-15-11-9(13-14-10(7)11)8-2-4-12-5-3-8;/h6,8,12H,2-5H2,1H3;1H
